US04443365
Preparation of 7-amino-2-propylheptanoic acid hydrochloride
A mixture of diethyl 2-(5-phthalimidopentyl)-2-propylmalonate (6 g) and 26% hydrochloric acid (36 ml) was heated in a sealed tube at 190° C. for 4 hours. After cooling, insoluble substance was remeved by filtration. The filtrate was concentrated to dryness under reduced pressure and the residue was chromatographed on silica gel column. A fraction eluted with the upper phase of a mixture of butanol:acetic acid:water (4:1:5 volume by volume) was concentrated by dryness to give colorless sticky oil of the desired compound (yield 1.3 g).

reactant | diethyl 2-(5-phthalimidopentyl)-2-propylmalonate | 6 g | C1(C=2C(C(N1CCCCCC(C(=O)OCC)(C(=O)OCC)CCC)=O)=CC=CC2)=O | C23H31NO6
reactant | hydrochloric acid | 36 ml | Cl | ClH
product | 7-amino-2-propylheptanoic acid hydrochloride | yield 1.3 g | Cl.NCCCCCC(C(=O)O)CCC | InChI=1S/C10H21NO2.ClH/c1-2-6-9(10(12)13)7-4-3-5-8-11;/h9H,2-8,11H2,1H3,(H,12,13);1H
